US04255351
In an autoclave, 280 g of isobutylene are added under pressure to 122 g (0.5 mole) of 2,4,4,4-tetrachlorobutyryl chloride in 600 ml of cyclohexane. A solution of 51 g (0.5 mole) of triethylamine in 500 ml of cyclohexane is then pumped in at 65° C. The reaction mixture is then kept for 3 hours at 65° C. The precipitated hydrochloride of triethylamine is collected by filtration and the filtrate is concentrated. The resulting crystals are collected by filtration, affording 79.4 g of 2-chloro-2-(2',2',2'-trichloroethyl)-3,3-dimethylcyclobutan-1-one with a melting point of 75°-76° C. (60% of theory).

reactant | isobutylene | 280 g | CC(C)=C | C4H8
reactant | 2,4,4,4-tetrachlorobutyryl chloride | 0.5 mole, 122 g | ClC(C(=O)Cl)CC(Cl)(Cl)Cl | C4H3Cl5O
reactant | triethylamine | 0.5 mole, 51 g | C(C)N(CC)CC | C6H15N
solvent | cyclohexane | 600 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | 500 ml | C1CCCCC1 | C6H12
product | 2-chloro-2-(2',2',2'-trichloroethyl)-3,3-dimethylcyclobutan-1-one | 79.4 g | ClC1(C(CC1(C)C)=O)CC(Cl)(Cl)Cl | C8H10Cl4O
